US08227516B2
to a solution of 3-Cyclohexylacrylic acid (5.30 g, 31.3 mmol) in DMF (100 mL) was added EDC (1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride) (7.80 g, 40.7 mmol) and HOBt (1-hydroxybenzotriazole hydrate) (5.07 g, 37.6 mmol). After stirring for 30 min at room temperature hydroxylamine hydrochloride (3.26 g, 47.0 mmol) and triethylamine (6.94 mL, 50.1 mmol) were added. After additional 18 hours stirring at room temperature the precipitate was filtered and washed with DMF. The DMF phases were combined. The solvent was concentrated in vacuo. 1 N HCl (50 mL) was added. After extraction with ethyl acetate (3×100 mL) and dichloromethane (2×100 mL) the organic layers were combined, washed with 1 N HCl (10 mL) and sodium chloride saturated solution (10 mL) and dried with magnesium sulfate. The solvent was removed in vacuo. The product was crystallized from ethyl acetate by addition of petroleum ether. This step removed large amounts of HOBt, the substance was then further purified by preparative HPLC using an acetonitrile/water gradient. This yielded (1.54 g, 9.08 mmol) of 3-Cyclohexyl-N-hydroxy-acrylamide. 1H NMR (300 MHz, [D6-DMSO]: δ=0.99-1.35 (m, 5H) and 1.56-1.73 (m, 5H) (cyclohexyl-CH2), 2.00-2.13 (m, 1H, cyclohexyl CH), 5.67 (d, J=15.7 Hz, 1H, C═C—H), 6.58 (dd, J=15.7 and J=6.3 Hz, 1H, C═C—H), 8.77 (s, 1H) and 10.49 (s, 1H) (NH and OH). 13C NMR (75 MHz, [D6-DMSO]: δ=25.2, 25.5, 31.5 (cyclohexyl-CH2), 41.1Acyclohexyl-CH), 118.8 and 147.1 (C═C), 162.8 (C(═O)NHOH). MS: m/z calcd for (C9H15NO2) [M+H]+ 170; found 170.

reactant | 3-Cyclohexylacrylic acid | 31.3 mmol, 5.30 g | C1(CCCCC1)C=CC(=O)O | C9H14O2
reactant | EDC | 40.7 mmol, 7.80 g
reactant | HOBt | 37.6 mmol, 5.07 g | O.ON1N=NC2=C1C=CC=C2
reactant | hydroxylamine hydrochloride | 47.0 mmol, 3.26 g | Cl.NO
reactant | triethylamine | 50.1 mmol, 6.94 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Cyclohexyl-N-hydroxy-acrylamide | 9.08 mmol, 1.54 g | C1(CCCCC1)C=CC(=O)NO | C9H15NO2
